US08614234B2
Preparation of 3-(2-Chloropyridin-4-yloxy)-4-fluorobenzoic acid
3-(2-Chloropyridin-4-yloxy)-4-fluorobenzoic acid methyl ester (2.81 g, 10.0 mmol) was dissolved in tetrahydrofuran (15 mL) and mixed with 2M lithium hydroxide (15 mL, 30 mmol). The suspension was stirred for 5 h. To the reaction was added water, then extracted with EtOAc. The aqueous layer was treated with 6M HCl (5 mL, 30 mmol) and then extracted with EtOAc (3×25 mL). The extract was dried (MgSO4), filtered and evaporated to 3-(2-Chloropyridin-4-yloxy)-4-fluorobenzoic acid. Yield: 2.22 g, 83%.

reactant | 3-(2-Chloropyridin-4-yloxy)-4-fluorobenzoic acid methyl ester | 10.0 mmol, 2.81 g | COC(C1=CC(=C(C=C1)F)OC1=CC(=NC=C1)Cl)=O | C13H9ClFNO3
reactant | lithium hydroxide | 30 mmol, 2M, 15 mL | [OH-].[Li+]
reactant | water | O | H2O
reactant | HCl | 30 mmol, 6M, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(2-Chloropyridin-4-yloxy)-4-fluorobenzoic acid | ClC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1F | C12H7ClFNO3
